US06436915B1
Synthesis of 3,5-Diamino-4-[(6-methoxybenzothiazol-2-yl)hydrazono]pyrazole
This compound was prepared using 2-[(6-methoxybenzothiazol-2-yl)hydrazono]-malononitrile (200 mg), which was derived from 2-amino-6-methoxybensothiazole (1.17 g) and malononitrile (0.82 g) as described in Example 8, and hydrazine hydrate (0.2 mL) in ethanol. Solids had not formed after heating the reaction at 40° C. for 2 hrs. The solution was allowed to cool to room temperature and concentrated. The product was obtained after column chromatography purification (80 mg, 35%).

reactant | 2-[(6-methoxybenzothiazol-2-yl)hydrazono]-malononitrile | 200 mg | COC1=CC2=C(N=C(S2)NN=C(C#N)C#N)C=C1 | C11H7N5OS
reactant | malononitrile | 0.82 g | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | 0.2 mL | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 3,5-Diamino-4-[(6-methoxybenzothiazol-2-yl)hydrazono]pyrazole | NC1=NN=C(C1=NNC=1SC2=C(N1)C=CC(=C2)OC)N | C11H11N7OS
